US08629133B2
2,6-Anhydro-1,3,4-trideoxy-D-arabino-hept-3-enitol
Sodium methoxide/methanol solution (28% w/w, 0.40 ml, 2.1 mmol) was added to a methanol (15 ml) solution of 5,7-di-O-acetyl-2,6-anhydro-1,3,4-trideoxy-D-arabino-hept-3-enitol (Synlett, 1996, 185; and Tetrahedron: Asymm., 2003, 14, 757) (1.56 g, 6.83 mmol) and the resulting mixture was stirred at room temperature for 3 hours. DOWEX 50WX8-200 was added to the reaction mixture to adjust its pH to 4 and then insoluble matter was removed by filtration. The filtrate was concentrated under reduced pressure to give the title compound.

reactant | Sodium methoxide methanol | 2.1 mmol, 0.40 ml | C[O-].[Na+].CO
reactant | 5,7-di-O-acetyl-2,6-anhydro-1,3,4-trideoxy-D-arabino-hept-3-enitol | 6.83 mmol, 1.56 g | C(C)(=O)O[C@H]1C=C[C@@H](C)O[C@@H]1COC(C)=O | C11H16O5
solvent | methanol | 15 ml | CO | CH4O
product | 2,6-Anhydro-1,3,4-trideoxy-D-arabino-hept-3-enitol | C[C@@H]1C=C[C@H](O)[C@H](O1)CO | C7H12O3
